US07923456B2
Step 3: 6-Cyano-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester
A degassed suspension of 6-chloro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester (4.8 g, 12.4 mmol), zinc cyanide (1.2 g, 10.2 mmol), and Pd(PPh3)4 (1.6 g, 1.36 mmol) in dimethylformamide (14 mL) was subjected to microwave irradiation at 190° C. for 20 minutes. This procedure was repeated seven times and all the reaction mixtures were combined and concentrated in vacuo. The resultant residue was dissolved in ethyl acetate and washed with a saturated aqueous solution of sodium hydrogen carbonate. The aqueous layer was separated and extracted with ethyl acetate three times. The combined organic extracts were washed with water and then brine, dried (Na2SO4), filtered and evaporated in vacuo. The resultant residue was subjected to flash chromatography (silica, gradient 0% to 100%, diethyl ether in pentane) to afford the title compound as a yellow solid (18.2 g). LCMS (method B): RT=4.74 min, M+H+=344.

reactant | 6-chloro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester | 12.4 mmol, 4.8 g | COC(C1=C(N=C(C=C1)Cl)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C16H18ClFN2O2Si
reactant | dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 10.2 mmol, 1.2 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 1.36 mmol, 1.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Cyano-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester | 18.2 g | COC(C1=C(N=C(C=C1)C#N)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C17H18FN3O2Si
